US08304419B2
3-bromo-5-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}benzonitrile (2.25 g, 5.36 mmol) and sodium azide (0.349 g, 5.36 mmol) were combined in DMSO (10 mL) and stirred overnight at 25° C. The reaction mixture was diluted with EtOAc, washed 4× with water, dried over MgSO4, filtered and concentrated to dryness to give 3-{[3-(azidomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile (2.04 g, 5.35 mmol, 100% yield) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.93 (t, 1H), 7.48-7.63 (m, 4H), 4.60 (s, 2H).

reactant | 3-bromo-5-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}benzonitrile | 5.36 mmol, 2.25 g | BrC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CBr)F | C14H7Br2ClFNO
reactant | sodium azide | 5.36 mmol, 0.349 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{[3-(azidomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile | 5.35 mmol, 2.04 g, 100% yield | N(=[N+]=[N-])CC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Br)F | C14H7BrClFN4O
